US05489593
6-Methoxyindole-2-carboxylic acid (I)
Methyl 6-methoxyindole-2-carboxylate (PREPARATION 62, 5.71 g) is dissolved in 70 ml of dioxane and 7 ml of water and 1.87 g of crushed potassium hydroxide are added. The reaction is heated to 50° and stirred 1.5 hr. The reaction mixture is acidified to pH 4-5 and extracted several times with methanol/chloroform (10/90). The organic layers are combined and dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the title acid, NMR (300 MHz, d4-CD3OD) 7.47, 7.08, 6.90, 6.72 and 3.82 δ.

reactant | Methyl 6-methoxyindole-2-carboxylate | 5.71 g | COC1=CC=C2C=C(NC2=C1)C(=O)OC | C11H11NO3
reactant | water | 7 ml | O | H2O
reactant | potassium hydroxide | 1.87 g | [OH-].[K+]
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
product | 6-Methoxyindole-2-carboxylic acid | COC1=CC=C2C=C(NC2=C1)C(=O)O | C10H9NO3
